US07135466B2
N-(2-Chlorobenzoyl)-N′-{3-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}thiourea
3-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 2-chloro-1-benzenecarbonyl isothiocyanate (50 μl) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (79 mg, yield 90%).

reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 2-chloro-1-benzenecarbonyl isothiocyanate | 50 μl | ClC1=C(C=CC=C1)C(=O)N=C=S | C8H4ClNOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-Chlorobenzoyl)-N′-{3-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}thiourea | 79 mg, yield 90% | ClC1=C(C(=O)NC(=S)NC2=CC(=C(C=C2)OC2=NC=NC3=CC(=C(C=C23)OC)OC)Cl)C=CC=C1 | C24H18Cl2N4O4S
